US07846959B2
To a solution of methyl 2-[(3,4-diaminophenyl)carbonyl]benzoate (134 mg, 0.50 mmol) in a mixture of acetonitrile-benzene (1:1, 5 mL) methyl isothiocyanatidocarbonate (70 mg, 0.60 mmol) was added followed by the addition of DCC (153 mg, 0.75 mmol) and the reaction mixture was heated to reflux for 18 h. After cooling to room temperature the reaction mixture was concentrated. The residue was triturated with diethyl ether (2×, 10 mL) and the pale orange solid was collected by filtration to give methyl 2-[(2-{[(methoxy)carbonyl]amino}-1H-benzimidazol-5-yl)carbonyl]benzoate (125 mg, 71%). MS (EI) for C18H15N3O5: 354 (MH+).

reactant | methyl 2-[(3,4-diaminophenyl)carbonyl]benzoate | 0.50 mmol, 134 mg | NC=1C=C(C=CC1N)C(=O)C1=C(C(=O)OC)C=CC=C1 | C15H14N2O3
reactant | methyl isothiocyanatidocarbonate | 0.60 mmol, 70 mg | COC(=O)N=C=S | C3H3NO2S
reactant | DCC | 0.75 mmol, 153 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | acetonitrile benzene | 5 mL | C(C)#N.C1=CC=CC=C1
product | methyl 2-[(2-{[(methoxy)carbonyl]amino}-1H-benzimidazol-5-yl)carbonyl]benzoate | 125 mg, 71% | COC(=O)NC1=NC2=C(N1)C=CC(=C2)C(=O)C2=C(C(=O)OC)C=CC=C2 | C18H15N3O5
